US07176231B2
(15) 1,5-diacetyl-3-[(3,5-dimethoxyphenyl )-hydroxy-methylidene]-2-indolinone
Prepared from 1,5-diacetyl-2-indolinone and 3,5-dimethoxybenzoic acid

reactant | 1,5-diacetyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | 3,5-dimethoxybenzoic acid | COC=1C=C(C(=O)O)C=C(C1)OC | C9H10O4
product | 1,5-diacetyl-3-[(3,5-dimethoxyphenyl )-hydroxy-methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(O)C1=CC(=CC(=C1)OC)OC)=O | C21H19NO6
